US06849622B2
17.33 g of stannous chloride was added to a hydrated ethanol (120 ml of ethanol+1.2 ml of water) suspension containing 6.08 g of N-benzyloxycarbonyl-trans-4-[(6-nitro-1-indolinyl)carbonyl]cyclohexylamine (the compound obtained in the same manner as in Reference Example 13-1 before deprotection), and the mixture was refluxed under argon atmosphere for 4.5 hours. An aqueous 10% sodium hydroxide solution was added to the reaction mixture to adjust pH of the mixture to pH 9 to 10, the mixture was diluted with 300 ml of chloroform and dried over anhydrous magnesium sulfate, and then, the insolubles were removed by filtration. The filtrate was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (solvent: chloroform-ethyl acetate (2:1)) to obtain 4.72 g of N-benzyloxycarbonyl-trans-4-[(6-amino-1-indolinyl)carbonyl]cyclohexylamine.

reactant | N-benzyloxycarbonyl-trans-4-[(6-nitro-1-indolinyl)carbonyl]cyclohexylamine | 6.08 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1CC[C@H](CC1)C(=O)N1CCC2=CC=C(C=C12)[N+](=O)[O-] | C23H25N3O5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | N-benzyloxycarbonyl-trans-4-[(6-amino-1-indolinyl)carbonyl]cyclohexylamine | 4.72 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1CC[C@H](CC1)C(=O)N1CCC2=CC=C(C=C12)N | C23H27N3O3
